US08222416B2
A solution of 1-(3-(3-methyl-1-(1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)but-1-enyl)phenyl)ethanone (1.5 g, 3.4 mmol) in ethanol (30 mL) and tetrahydrofuran (60 mL) was treated with an aqueous sodium hydroxide solution (10%, 20 mL). The reaction was stirred at 80° C. for 16 h. Most of the solvent was removed in vacuo. The resulting precipitate was removed by filtration and washed with water (50 mL). The filtrate was concentrated in vacuo. Silica gel column chromatography (30 g, 200-300 mesh, 15% ethyl acetate/petroleum ether) afforded 1-(3-(3-methyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)but-1-enyl)phenyl)ethanone (0.85 g, 82.2%) as an off-white solid: 1H NMR (300 MHz, d6-DMSO) δ ppm 11.60 (s, 1H), 8.20 (dd, 1H, J1=4.8 Hz, J2=1.5 Hz), 7.96 (d, 1H, J=8.1 Hz), 7.90-7.87 (m, 1H), 7.78 (s, 1H), 7.48-7.46 (m, 2H), 7.09 (dd, 1H, J1=7.5 Hz, J2=5.1 Hz), 6.44 (d, 1H, J=1.8 Hz), 6.24 (d, 1H, J=9.9 Hz), 2.63-2.56 (m, 1H), 2.57 (s, 3H), 1.08-1.02 (m, 6H).

reactant | 1-(3-(3-methyl-1-(1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)but-1-enyl)phenyl)ethanone | 3.4 mmol, 1.5 g | CC(C=C(C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=CC=C1)C=1C=C(C=CC1)C(C)=O)C | C26H24N2O3S
reactant | sodium hydroxide | 20 mL | [OH-].[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 1-(3-(3-methyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)but-1-enyl)phenyl)ethanone | 0.85 g, 82.2% | CC(C=C(C1=CC=2C(=NC=CC2)N1)C=1C=C(C=CC1)C(C)=O)C | C20H20N2O
